US07923456B2
Step 4: 6-Aminomethyl-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester
To a suspension of 6-cyano-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester (5.7 g, 15.8 mmol) in methanol (130 mL) was added cobalt (II) chloride (7.5 g, 31.6 mmol). The reaction mixture was stirred for 10 minutes, then cooled to 0° C. and sodium borohydride (6.0 g, 158 mmol) was added in small portions over 30 minutes. The reaction mixture was stirred at 0° C. for 15 minutes and then at room temperature for 1 hour. The reaction was quenched by addition of concentrated hydrochloric acid (20 mL) and the mixture stirred for 15 minutes. The reaction mixture was filtered to remove a white solid, which was washed with dichloromethane, and the filtrate was concentrated under reduced pressure. The resultant residue was dissolved in ethyl acetate and washed with a saturated solution of sodium bicarbonate, followed by water then brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a brown solid (2.0 g, 34%). LCMS (method B): RT=2.77 min, [M+H]+=366.

reactant | 6-cyano-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 15.8 mmol, 5.7 g | COC(C1=C(N=C(C(=C1)F)C#N)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C17H17F2N3O2Si
reactant | sodium borohydride | 158 mmol, 6.0 g | [BH4-].[Na+]
solvent | methanol | 130 mL | CO | CH4O
catalyst | cobalt (II) chloride | 31.6 mmol, 7.5 g | [Co](Cl)Cl
product | 6-Aminomethyl-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 2.0 g, 34% | COC(C1=C(N=C(C(=C1)F)CN)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C17H21F2N3O2Si
